US08383827B2
Step 1: Synthesis of N-((5-bromopyridin-3-yl)(4-fluorophenyl)methyl)ethanesulfonamide
A mixture of 5-bromo-pyridine-3-carbaldehyde (0.930 g, 5 mmol), ethanesulfonamide (0.682 g, 6.25 mmol) and titanium(IV) isopropoxide (2.93 ml, 10.00 mmol) in toluene (10 mL) was heated to 100° C. for 4 h. After concentration, the residue was dissolved in THF (12.5 ml), and (4-fluorophenyl)magnesium bromide (1 M in THF, 12.50 mL, 12.50 mmol) was added dropwise at −78° C. The mixture was stirred at −78° C. for 45 min. The mixture was quenched with saturated NH4Cl and extracted with EtOAc two times, dried over magnesium sulfate, filtered, and concentrated. The residue was purified via Biotage (10-40% AcOEt/heptane; SNAP25 column) giving the title compound (986 mg, 53%) as a beige solid. LC-MS (M+1) 375.0.

reactant | 5-bromo-pyridine-3-carbaldehyde | 5 mmol, 0.930 g | BrC=1C=C(C=NC1)C=O | C6H4BrNO
reactant | ethanesulfonamide | 6.25 mmol, 0.682 g | C(C)S(=O)(=O)N | C2H7NO2S
reactant | (4-fluorophenyl)magnesium bromide | 12.50 mmol, 1 M, 12.50 mL | FC1=CC=C(C=C1)[Mg]Br
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | titanium(IV) isopropoxide | 10.00 mmol, 2.93 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | N-((5-bromopyridin-3-yl)(4-fluorophenyl)methyl)ethanesulfonamide | 986 mg, 53% | BrC=1C=C(C=NC1)C(NS(=O)(=O)CC)C1=CC=C(C=C1)F | C14H14BrFN2O2S
